US07491718B2
methyl 5-bromo-2-[(phenylsulfonyl)amino]benzoate
A mixture of methyl 2-amino-5-bromobenzoate (23.34 g, 101 mmol) in pyridine (100 mL) was treated with a solution of benzenesulfonyl chloride (14 mL, 110 mmol), stirred for 16 hours at ambient temperature, and concentrated. The concentrate was dissolved in dichloromethane, washed twice with 1N NaHSO4, dried (MgSO4), filtered, and concentrated. The concentrate was recrystallized from 3:1 ethanol/water (200 mL) to provide the desired product (33.4 g). MS (DCI) m/e 387, 389 (M+NH4)+; 1H NMR (300 MHz, DMSO-d6) δ 10.32 (s, 1H), 7.91 (d, 1H), 7.80 (d, 1H), 7.77 (s, 1H), 7.75 (dd, 1H), 7.66 (d, 1H), 7.61-7.53 (m, 2H), 7.39 (d, 1H), 3.79 (s, 3H).

reactant | methyl 2-amino-5-bromobenzoate | 101 mmol, 23.34 g | NC1=C(C(=O)OC)C=C(C=C1)Br | C8H8BrNO2
reactant | benzenesulfonyl chloride | 110 mmol, 14 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | methyl 5-bromo-2-[(phenylsulfonyl)amino]benzoate | 33.4 g | BrC=1C=CC(=C(C(=O)OC)C1)NS(=O)(=O)C1=CC=CC=C1 | C14H12BrNO4S
